US05929067
4-[N'-(3.5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-5.5-diphenyl-pentanoic acid N-(1 (S)-hydroxymethyl-3-methyl-butyl)-amide [=4-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-5,5-diphenyl-pentanoic acid N-(L-leucinol)-amide]
A solution of 120 mg (0.23 mmol) of 4-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-5,5-diphenyl-pentanoic acid (example 32 h) and 45 μl (0.32 mmol) of triethylamine in 4 ml of N,N-dimethylformamide at 0° C. is treated with 36 μl (0.28 mmol) of (S)-leucinol, followed by 45 μl (0.28 mmol) of diethyl cyanophosphonate. After stirring for 4 h at room temperature, the reaction mixture is concentrated, diluted with ethyl acetate, and then washed with saturated sodium bicarbonate solution. The aqueous layer is further extracted with ethyl acetate (3×). The organic layers are combined, dried with sodium sulfate and concentrated. The residue is then purified by flash chromatography (98:2 to 95:5 methylene chloride/methanol) to give the title compound as a white solid (mixture of diastereomers). TLC: methylene chloride/methanol (95:5) Rf =0.22, 0.19

reactant | 4-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-5,5-diphenyl-pentanoic acid | 0.23 mmol, 120 mg | FC(C=1C=C(C(=O)N(C)C(CCC(=O)O)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C27H23F6NO3
reactant | triethylamine | 0.32 mmol, 45 μl | C(C)N(CC)CC | C6H15N
reactant | (S)-leucinol | 0.28 mmol, 36 μl | N[C@@H](CC(C)C)CO | C6H15NO
reactant | diethyl cyanophosphonate | 0.28 mmol, 45 μl | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 4-[N'-(3.5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-5.5-diphenyl-pentanoic acid N-(1 (S)-hydroxymethyl-3-methyl-butyl)-amide | OC[C@H](CC(C)C)NC(CCC(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C33H36F6N2O3
